US08686022B2
(S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-cyclopropylcarbamoyl-2-methoxy-phenyl)-amide
150 mg of 5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-benzoic acid are dissolved in 2 ml of N,N-dimethylformamide and combined with 105 mg O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-tetrafluoroborate (TBTU) and 120 μl N,N-diisopropyl-ethylamine (DIEA). The mixture is stirred for 20 minutes, then 21 μl of cyclopropylamine are added and the mixture is stirred for 12 hours. A further 21 μl of cyclopropylamine are added and the mixture is stirred for 30 minutes. Then the solvents are eliminated in vacuo and the residue is purified by preparative HPLC (method 3).

reactant | 5-tert-butyl-2-methoxy-3-({1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carbonyl}-amino)-benzoic acid | 150 mg | C(C)(C)(C)C=1C=C(C(=C(C(=O)O)C1)OC)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1N(CCC1)C)C | C33H43N5O5
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 105 mg | N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C.F[B-](F)(F)F
reactant | N,N-diisopropyl-ethylamine | 120 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclopropylamine | 21 μl | C1(CC1)N | C3H7N
reactant | cyclopropylamine | 21 μl | C1(CC1)N | C3H7N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(5-tert-butyl-3-cyclopropylcarbamoyl-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC)C(NC1CC1)=O | C36H48N6O4
